US08492378B2
To a solution of [4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]methanol (204 mg, 0.66 mmol) in 1,2-dichloroethane (5 mL) was added thionyl chloride (0.240 mL, 3.33 mmol), and the resulting mixture was heated under reflux for 1 hr. After cooling, the reaction mixture was concentrated under reduced pressure to give crude 2-[3-[4-(chloromethyl)phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole as yellow crystals.

reactant | [4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]methanol | 0.66 mmol, 204 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)CO)C1 | C18H14N2O3
reactant | thionyl chloride | 3.33 mmol, 0.240 mL | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 2-[3-[4-(chloromethyl)phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | ClCC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H13ClN2O2
